US07816369B2
To a solution of 2-methyl-6-trifluoromethylnicotinic acid (4.77 g; 23 mmol) in dimethyl formamide (100 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.46 g; 23 mmol) and 1-hydroxy-7-azabenzotriazole (3.17 g; 23 mmol) and the resulting solution was stirred at room temperature for 30 minutes. To this was added a solution of methyl 5-amino-2-chlorobenzoate (3.6 g; 19 mmol) in dimethyl formamide (25 ml) and the resulting solution stirred at room temperature for 18 hours. Water (200 ml) was added to the reaction mixture and this was extracted with ethyl acetate (3×200 ml). The combined organic layers were washed with saturated sodium bicarbonate solution (2×300 ml). The organic layer was dried (magnesium sulphate), filtered and evaporated to give 2-chloro-5-[(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-amino]-benzoic acid methyl ester (6.6 g, 94%).

reactant | 2-methyl-6-trifluoromethylnicotinic acid | 23 mmol, 4.77 g | CC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 23 mmol, 4.46 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 23 mmol, 3.17 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | methyl 5-amino-2-chlorobenzoate | 19 mmol, 3.6 g | NC=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO2
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Water | 200 ml | O | H2O
product | 2-chloro-5-[(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-amino]-benzoic acid methyl ester | 6.6 g, 94% | COC(C1=C(C=CC(=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)Cl)=O | C16H12ClF3N2O3
